US04027023
Aqueous ammonia solution (specific gravity 0.88; 10 ml.) was added to 6-ethylcinnolin-3-yl carbonyl chloride (1 g.). The resulting suspension was stirred overnight at room temperature. The resulting mixture was filtered and the solid residue was crystallised from aqueous ethanol to give 6-ethylcinnolin-3-ylcarboxamide, m.p. 215°-216° C.

reactant | 6-ethylcinnolin-3-yl carbonyl chloride | 1 g | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)Cl | C11H9ClN2O
reactant | ammonia | 10 ml | N | H3N
product | 6-ethylcinnolin-3-ylcarboxamide | C(C)C=1C=C2C=C(N=NC2=CC1)C(=O)N | C11H11N3O
